US08124606B2
4-(4-(tert-butoxycarbonyl)piperazin-1-yl)-2,5-difluorobenzoic acid (0.021 g, 0.061 mmol) and ethylamine hydrochloride (7.50 mg, 0.092 mmol) were suspended in DMF (Volume: 0.7 mL) and treated with DIPEA (0.054 mL, 0.307 mmol) and 2-(3H-[1,2,3]triazolo[4,5-b]pyridin-3-yl)-1,1,3,3-tetramethylisouronium hexafluorophosphate(V) (0.047 g, 0.123 mmol). The reaction mixture was stirred at room temperature for 15 min and diluted with water. The precipitate was filtered, washed with water and dried in vacuum to afford tert-butyl 4-(4-(ethylcarbamoyl)-2,5-difluorophenyl)piperazine-1-carboxylate (20.1 mg, 0.054 mmol, 89% yield). ESI-MS: m/z 370 (M+H)+.

reactant | 4-(4-(tert-butoxycarbonyl)piperazin-1-yl)-2,5-difluorobenzoic acid | 0.061 mmol, 0.021 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC(=C(C(=O)O)C=C1F)F | C16H20F2N2O4
reactant | ethylamine hydrochloride | 0.092 mmol, 7.50 mg | Cl.C(C)N
reactant | DIPEA | 0.307 mmol, 0.054 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-(3H-[1,2,3]triazolo[4,5-b]pyridin-3-yl)-1,1,3,3-tetramethylisouronium hexafluorophosphate(V) | 0.123 mmol, 0.047 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 0.7 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | tert-butyl 4-(4-(ethylcarbamoyl)-2,5-difluorophenyl)piperazine-1-carboxylate | 0.054 mmol, 20.1 mg, 89% yield | C(C)NC(=O)C1=CC(=C(C=C1F)N1CCN(CC1)C(=O)OC(C)(C)C)F | C18H25F2N3O3
